US04160109
Hydroquinone-di-n-butyl ether
100 g of cyclohexene-(1)-dione-(3,6)-tetramethyl ketal were dissolved in 1500 g of n-butanol at 20° C. and the batch was acidified while stirring with 0.005 g of p-toluenesulfonic acid. After about 10 minutes the batch was heated for 30 minutes to 90° C., subsequently neutralized with NaOCH3, the formed methanol and the solvent were completely evaporated under slightly reduced pressure and subsequently the reaction product was submitted to a fractionating distillation. 65.3 g of hydroquinone dibutyl ether having a melting point of 46° C. distilled over under a pressure of 5 mm Hg at a temperature of from 125° to 135° C., which corresponded to a yield of 60% of the theory.

reactant | p-toluenesulfonic acid | 0.005 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaOCH3 | O([Na])C
reactant | n-butanol | 1500 g | C(CCC)O | C4H10O
product | Hydroquinone di-n-butyl ether | yield of 60% | C1(O)=CC=C(O)C=C1.C(CCC)OCCCC | InChI=1S/C8H18O.C6H6O2/c1-3-5-7-9-8-6-4-2;7-5-1-2-6(8)4-3-5/h3-8H2,1-2H3;1-4,7-8H
